US09126993B2
(S)-quinuclidin-3-yl 2-(4-(4-fluorophenyl)thiazol-2-yl)propan-2-ylcarbamate
To stirred and cooled (0° C.) solution of 2-(4-(4-fluorophenyl)thiazol-2-yl)-2-methylpropanoic acid (0.784 g, 2.96 mmol) in THF (25 mL) was added triethylamine (0.82 mL, 5.9 mmol) followed by isobutyl chloroformate (0.58 mL, 4.4 mmol). The reaction was stirred cold for another 1 hour before adding a solution of sodium azide (0.385 g, 5.92 mmol) in water (7 mL). The reaction was stirred overnight, allowing the cooling bath to slowly warm to room temperature. The mixture was then diluted with water (100 mL) and extracted with ethyl acetate (2×60 mL). The combined extracts were washed with aqueous NaHCO3 (1×150 mL) and brine (1×100 mL), dried (Na2SO4) and concentrated. After coevaporating with toluene (2×30 mL), the resulting off-white solid was taken up in toluene (25 mL) and refluxed for 4 hours. (S)-3-quinuclidinol (0.753 g, 5.92 mmol) was then added and reflux was continued for 3 hours. The reaction was concentrated and the residue was purified by flash chromatography using a chloloform/methanol/ammonia gradient to afford the title compound as a white solid (0.793 g, 69%). 1H NMR (400 MHz, CDCl3) δ 7.90-7.81 (m, 2H), 7.32 (s, 1H), 7.14-7.05 (m, 2H), 5.76 (br s, 1H), 4.72-4.65 (m, 1H), 3.26-3.10 (m, 1H), 3.03-2.37 (m, 5H), 2.05-1.23 (m, 11H) ppm. 13C NMR (400 MHz, CDCl3) δ 177.6, 162.6 (d, J=248.4 Hz), 154.8, 153.6, 130.8 (d, J=3.2 Hz), 128.1 (d, J=8.1 Hz), 115.9 (d, J=21.7 Hz), 112.2, 71.6, 55.7, 47.4, 46.5, 29.1, 25.4, 24.7, 19.6 ppm. Purity: 100% UPLCMS (210 nm & 254 nm); retention time 0.82 min; (M+1) 390.

reactant | 2-(4-(4-fluorophenyl)thiazol-2-yl)-2-methylpropanoic acid | 2.96 mmol, 0.784 g | FC1=CC=C(C=C1)C=1N=C(SC1)C(C(=O)O)(C)C | C13H12FNO2S
reactant | triethylamine | 5.9 mmol, 0.82 mL | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 4.4 mmol, 0.58 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 5.92 mmol, 0.385 g | [N-]=[N+]=[N-].[Na+]
reactant | (S)-3-quinuclidinol | 5.92 mmol, 0.753 g | N12C[C@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | 7 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | (S)-quinuclidin-3-yl 2-(4-(4-fluorophenyl)thiazol-2-yl)propan-2-ylcarbamate | 0.793 g, 69% | FC1=CC=C(C=C1)C=1N=C(SC1)C(C)(C)NC(O[C@@H]1CN2CCC1CC2)=O | C20H24FN3O2S
